US08168784B2
reacting the 2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde, 4-chlorophenylboronic acid, tetrabutyl ammonium bromide, potassium carbonate, and palladium (II) acetate to provide 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde and isolating or not isolating the 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde.

reactant | 2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde | ClC1=C(CC(CC1)(C)C)C=O | C9H13ClO
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutyl ammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
